US05189211
To a mixture of methyl 4-(hydroxymethyl)cinnamate (4.1 g), triethylamine (3.1 ml) and methylene chloride (50 ml) was added dropwise under ice cooling methanesulfonyl chloride (1.7 ml), and the mixture was stirred at room temperature for 1.5 hours. Evaporation of the reaction solution gave a residue, which was then chromatographed on silica gel column (eluent: methylene chloride) to give methyl 4-(chloromethyl)cinnamate (2.57 g).

reactant | methyl 4-(hydroxymethyl)cinnamate | 4.1 g | OCC1=CC=C(C=CC(=O)OC)C=C1 | C11H12O3
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(chloromethyl)cinnamate | 2.57 g | ClCC1=CC=C(C=CC(=O)OC)C=C1 | C11H11ClO2
